US04997942
Preparation of 2-(3-fluoro-4-n-nonyloxyphenyl)-5-(4-n-hexylphenyl)pyrazine (compound No. 8 in Table 1)
0.35 g of the crude 2-(3-fluoro-4-hydroxyphenyl)-5-(4-n-hexylphenyl)pyrazine was dissolved in 3 ml of dimethyl sulfoxide and 3 ml of tetrahydrofuran. To the resulting solution, was added 0.12 g of potassium-tertbutoxide. The obtained mixture was stirred at room temperature for 30 minutes and then 0.22 g of n-nonyl bromide was added thereto. The mixture was stirred at room temperature for additional five hours. Then the reaction mixture was diluted with ethyl acetate, washed with dilute hydrochloric acid and with a 30% aqueous solution of sodium hydroxide and then repeatedly washed with water until the washing liquor showed a pH value of approximately 7. Then the ethyl acetate phase was dehydrated over sodium sulfate and the solvent was distilled off. Thus 0.48 g of a crude reaction product was obtained. The crude reaction product was purified by silica gel column chromatography and recrystallized from acetone. Thus 0.41 g of the title compound was obtained. Phase transition temperature: 93.0° C. (C→Sc);

reactant | 2-(3-fluoro-4-hydroxyphenyl)-5-(4-n-hexylphenyl)pyrazine | 0.35 g | FC=1C=C(C=CC1O)C1=NC=C(N=C1)C1=CC=C(C=C1)CCCCCC | C22H23FN2O
reactant | potassium tertbutoxide | 0.12 g | [K].CC(C)([O-])C
reactant | n-nonyl bromide | 0.22 g | C(CCCCCCCC)Br | C9H19Br
solvent | dimethyl sulfoxide | 3 ml | CS(=O)C | C2H6OS
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(3-fluoro-4-n-nonyloxyphenyl)-5-(4-n-hexylphenyl)pyrazine | 0.41 g | FC=1C=C(C=CC1OCCCCCCCCC)C1=NC=C(N=C1)C1=CC=C(C=C1)CCCCCC | C31H41FN2O
